US06297233B1
To a 0° C. slurry of sodium hydroxide (82 g, 2 mol) in DMF (1.5 L) was added acetone oxime (125 g, 1.7 mol). After stirring 45 min, 1-fluoro-4-nitrobenzene (218 g, 1.55 mol) was added over 45 min. After stirring at room temperature for 2.5 h, the reaction was poured into cold brine (4.5 L). The mixture was stirred at 0° C. for 2 h. The solid was collected by filtration, washed with water (4×1.5 L) and dried to provide 300 g (99%) of 2-propanone O-(4-nitrophenyl)oxime.

reactant | sodium hydroxide | 2 mol, 82 g | [OH-].[Na+]
reactant | acetone oxime | 1.7 mol, 125 g | CC(C)=NO | C3H7NO
reactant | 1-fluoro-4-nitrobenzene | 1.55 mol, 218 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
solvent | brine | 4.5 L | [Cl-].[Na+].O
product | 2-propanone O-(4-nitrophenyl)oxime | 300 g, 99% | [N+](=O)([O-])C1=CC=C(C=C1)ON=C(C)C | C9H10N2O3
